US07772244B2
(±)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-1-one
To a solution of (±)-2-hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid (100 mg, 0.29 mmol), 4-piperidinopiperidine (96.0 mg, 2.0 equiv), and diisopropylethylamine (0.10 mL, 0.57 mmol) in dichloromethane (3.6 mL) at 0° C. was added PyBOP® (156 mg, 0.30 mmol) in two portions. The reaction was stirred at 0° C. for 15 minutes and at room temperature overnight. The reaction was diluted with ethyl acetate, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (4% to 10% methanol/dichloromethane) gave 130 mg (91%) as an oil. Mass spec.: 501.36 (MH)+.

reactant | (±)-2-hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid | 0.29 mmol, 100 mg | OC(C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C17H26N2O4Si
reactant | 4-piperidinopiperidine | 96.0 mg, 2.0 equiv | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | diisopropylethylamine | 0.57 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 3.6 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-1-one | OC(C(=O)N1CCC(CC1)N1CCCCC1)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C27H44N4O3Si
